US08003806B2
3-{6-[(4-Amino benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid
A solution of ethyl 3-{6-[(4-aminobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate (50 mg, 117 μmol) in hydrochloric acid (20 mL of a 5N solution) was stirred at room temperature for 72 hours. The solution was then evaporated in vacuo, and the residue was purified by RP-HPLC to afford the title compound, [LCMS (Method A, Mobile Phase II) RT=3.20 min, MH+ 401].

reactant | ethyl 3-{6-[(4-aminobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | 117 μmol, 50 mg | NC1=CC=C(C(=O)NC=2C=CC3=C(N(C=N3)C(CC(=O)OCC)C3=CC=CC=C3)C2)C=C1 | C25H24N4O3
solvent | hydrochloric acid | Cl | ClH
product | 3-{6-[(4-Amino benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid | NC1=CC=C(C(=O)NC=2C=CC3=C(N(C=N3)C(CC(=O)O)C3=CC=CC=C3)C2)C=C1 | C23H20N4O3
